US07893056B2
Tris(1,1-dimethylethyl)2-{6-[[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (220 mg, 0.36 mmol) was dissolved in 10 mL of methanol and stirred. To this solution, 5 mL of 4M HCl in dioxane was slowly added. The mixture was stirred for 3 days and was evaporated to provide 6-[[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4(1H)-pyrimidinone hydrazone trihydrochloride (150 mg, 83%). LCMS: (M+H)+: 303.9.

reactant | Tris(1,1-dimethylethyl)2-{6-[[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.36 mmol, 220 mg | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N(C)CC=1N=C(SC1)N)Cl)C(=O)OC(C)(C)C | C24H35ClFN7O6S
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-[[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4(1H)-pyrimidinone hydrazone trihydrochloride | 150 mg, 83% | Cl.Cl.Cl.NC=1SC=C(N1)CN(C1=C(C(N=C(N1)Cl)=NN)F)C | InChI=1S/C9H11ClFN7S.3ClH/c1-18(2-4-3-19-9(12)14-4)7-5(11)6(17-13)15-8(10)16-7;;;/h3H,2,13H2,1H3,(H2,12,14)(H,15,16,17);3*1H
